US06660744B1
A mixture of 4-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol (0.212 g, 0.718 mmol, 1 equiv), potassium carbonate (0.060 g, 0.43 mmol, 0.6 equiv), copper powder (0.015 g, 0.24 mmol, 0.33 equiv), and 3-bromothiophene (0.09 mL, 0.9 mmol, 1.3 equiv) in DMF (7.2 mL) was heated at 153° C. for 24 hr. The reaction mixture was allowed to cool to ambient temperature, concentrated, and the residue was purified by preparative RP-HPLC (Rainin C18, 8 μm, 300 Å, 25 cm; 10%-60% acetonitrile-0.1M ammonium acetate over 20 min, 21 mL/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyopholyzed to give 1-cyclopentyl-3-[4-(3-thienyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a light brown solid (0.060 g, 0.16 mmol): 1H NMR (d6 DMSO, 400 MHz): δ H 9.77 (1H, s), 8.46 (1H, s), 8.41 (1H, s), 7.73-7.74 (1H, m), 7.57 (2H, d, J=4.5 Hz), 7.46-7.48 (1H, m), 7.15 (1H, d, J=5.2 Hz), 6.96 (2H, d, J=8.6 Hz), 5.24-5.30 (1H, m), 2.03-2.05 (4H, m), 1.89-1.93 (2H, m), 1.70-1.72 (2H, m). RP-HPLC (Delta Pak C18, 5 μm, 300 Å, 15 cm; 5%-85% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 18.76 min. MS: MH+ 378.

reactant | 4-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | 0.718 mmol, 0.212 g, 1 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)O)C2CCCC2 | C16H17N5O
reactant | potassium carbonate | 0.43 mmol, 0.060 g, 0.6 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromothiophene | 0.9 mmol, 0.09 mL, 1.3 equiv | BrC1=CSC=C1 | C4H3BrS
solvent | DMF | 7.2 mL | CN(C)C=O | C3H7NO
catalyst | copper | 0.24 mmol, 0.015 g, 0.33 equiv | [Cu] | Cu
product | 1-cyclopentyl-3-[4-(3-thienyloxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.16 mmol, 0.060 g | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CSC=C2 | C20H19N5OS
